US06884607B2
22.8 g (205 mmol) of calcium chloride and 8.4 g (114 mmol) of calcium hydroxide were dissolved in 50 g of water and stirred for 20 minutes. Then, 28.0 g (142 mmol) of methyl 4-bromo-3-hydroxybutanoate was added dropwise at room temperature over 5 minutes. The mixture was stirred at room temperature for 10 minutes and then cooled by ice, and 8.7 g (178 mmol) of sodium cyanide was added thereto. Then, the mixture was further stirred at an internal temperature of 25 to 33° C. for 4.5 hours. Then, concentrated hydrochloric acid was added dropwise, and ethyl acetate was used for extraction five times. The residue that was obtained by concentrating the organic layer under reduced pressure was dissolved in ethyl acetate and dried over anhydrous magnesium sulfate. The solution from which magnesium sulfate was removed through filtration was cooled with ice, and 20.0 g (198 mmol) of triethylamine and 26.6 g (172 mmol) of diethyl sulfate were added thereto. It was stirred for about 30 minutes while gradually heating to room temperature. It was further stirred at an internal temperature of 55 to 63° C. for 40 minutes. Then, the reaction solution was cooled by ice and 50 ml of saturated sodium hydrogen carbonate was added thereto, which was then stirred. This solution was separated, and solution layer was subjected again to extraction with ethyl acetate. Combined organic layers were washed with saturated saline solution dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to the distillation under reduced pressure and 15.7 g of ethyl 4-cyano-3-hydroxybutanoate was obtained. The purity of the obtained ethyl 4-cyano-3-hydroxybutanoate was 95% (gas chromatography in area percentage).

reactant | calcium chloride | 205 mmol, 22.8 g | [Cl-].[Ca+2].[Cl-]
reactant | calcium hydroxide | 114 mmol, 8.4 g | [OH-].[Ca+2].[OH-]
reactant | methyl 4-bromo-3-hydroxybutanoate | 142 mmol, 28.0 g | BrCC(CC(=O)OC)O | C5H9BrO3
reactant | sodium cyanide | 178 mmol, 8.7 g | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 198 mmol, 20.0 g | C(C)N(CC)CC | C6H15N
reactant | diethyl sulfate | 172 mmol, 26.6 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | water | 50 g | O | H2O
product | ethyl 4-cyano-3-hydroxybutanoate | 15.7 g | C(#N)CC(CC(=O)OCC)O | C7H11NO3
